US06294552B1
6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(3-trimethylsilanylethynyl-phenyl)-1H-quinolin-2-one
2-Mercapto-1-methylimidazole (2.08 g, 18.2 mMol) was dissolved in anhydrous THF (200 mL) under an atmosphere of dry N2. The solution was cooled to −78° C. and a solution of tert-butyl lithium (1.7 M in pentane, 22 mL, 37 mMol) was added. The solution was then warmed to 0° C. After a yellow precipitate formed, the solution was cooled to −78° C. and a solution of 6-(4chloro-benzoyl)-1-methyl-4-(3-trimethylsilanyl ethynyl-phenyl)-1H-quinolin-2-one (8.55 g, 18.2 mMol) in anhydrous THF (25 mL) was added. After 30 minutes, the solution was warmed to 0° C. and stirred at this temperature for 1 hour. The reaction mixture was then warmed to ambient temperature and stirred overnight. The reaction was quenched with 20 mL of saturated aqueous ammonium chloride (NH4Cl) and then partitioned between DCM and water. The DCM layer was dried over sodium sulfate (Na2SO4), filtered and concentrated under vacuum. The residue was chromatographed on flash silica gel eluting with a gradient from DCM to MeOH/DCM (3:97) to give 5.0 g of the titled compound as a solid.

reactant | 2-Mercapto-1-methylimidazole | 18.2 mMol, 2.08 g | SC=1N(C=CN1)C | C4H6N2S
reactant | tert-butyl lithium | 37 mMol, 1.7 M, 22 mL | C(C)(C)(C)[Li]
reactant | 6-(4chloro-benzoyl)-1-methyl-4-(3-trimethylsilanyl ethynyl-phenyl)-1H-quinolin-2-one | 18.2 mMol, 8.55 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=C(C(=CC=C2)[Si](C)(C)C)C#C)C=C1 | C28H24ClNO2Si
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(3-trimethylsilanylethynyl-phenyl)-1H-quinolin-2-one | 5.0 g | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)C#C[Si](C)(C)C)(C=1N(C=NC1)C)O | C32H30ClN3O2Si
